* Z:\mnt\design.r\spice\examples\1183.asc
Q1 N005 N007 N010 0 NP
Q2 N006 N008 N010 0 NP
L1 N005 N004 20µ
L2 N004 N006 20µ
C1 N006 N005 .068µ
L3 N008 N007 1µ
V1 N001 0 28
L4 N002 N003 50m
R1 N003 N002 70K
L5 N010 N013 100µ
D1 N013 N001 1N5818
R2 N004 N009 220K
R3 N009 N010 100K
C3 N004 N009 1000p
D2 0 N013 1N5818
C4 N023 0 1µ
V2 N011 0 5
C5 N001 0 2.2µ
R5 N001 N008 500
R6 N003 0 1G
R7 N011 N020 89.6
C2 N021 0 .1µ
R4 N022 N021 10K
L6 N015 N001 100µ
L7 N012 N014 100µ
D3 N012 0 1N5819
C6 0 N014 1µ
R8 N014 N017 {20K}
R9 N017 N019 10K
R10 N019 N011 4.99K
R11 0 N014 500
XU1 0 N020 0 N023 0 N016 N022 0 N015 N019 N018 N011 N004 N001 N009 N013 LT1183
D4 N019 0 1N914
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 2m
K1 L1 L2 L3 L4 1
* BAT
.model NP NPN
K1 L6 L7 1
.lib LT1183.sub
.backanno
.end
